Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with history of severe pancreatitis (___), HLD, HTG, 
presented with sudden onset abdominal pain on day of admission.  
Had fried food and 4 beers the night before and went to bed 
feeling normal. Shortly after breakfast in the morning (eggs and 
cheese sandwich), he began to feel a severe sharp constant pain, 
___ in his LUQ that radiated in a band around the rest of his 
abdomen. He describes the rest of his abdomen as tense and 
distended. He had some nausea and small amounts of non bloody 
emesis. He says his symptoms are very similar to prior episodes 
of pancreatitis. He is denying any fevers, chills, diarrhea, or 
constipation. No nausea currently. He denies shortness of 
breath, diaphoresis, fever, chills ___ weakness.

Patient reports he has been eating unhealthy over the last 
several weeks. He is not currently compliant with his 
gemfibrozil. Otherwise denies episodic abdominal pain, history 
of hpylori or NSAID use. 

In the ED, initial vitals:  96.6 68 150/93 30 100% 
Labs were notable for lipase ___, WBC 13.9. Lactate was 1.7.
He was given 1LNS, dilaudid, 1L NS and zofran.
Vitals prior to transfer:98.5 80 143/102 16 99% RA   

Currently,  the patient is continuing to have abdominal pain. He 
reports the dilaudid was very helpful for his symptoms.

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No diarrhea or constipation. No dysuria or 
hematuria. No hematochezia, no melena. No numbness or weakness, 
no focal deficits.  
 
 
Past Medical History:
hypertriglyceridemia
pancreatitis
 
Social History:
___
Family History:
Mother with MI, stroke

 
Physical Exam:
ADMISSION:
VS: 99.1 154/99 110 20 96ra
GENERAL: Alert, oriented, in acute distress 
HEENT: Sclerae anicteric, dry MM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
RESP: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
ABD: Mildly distended, normal BS, diffuse tenderness to 
palpation worse in LUQ, guarding, no rebound. Murphys sign 
negative. 
GU: no foley  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: No excoriations or rash.

DISCHARGE:
VS: T 99.0 BP 136/79 HR 90  RR 20 O2 99% RA I/O since MN I/O 
___
GENERAL: Alert, oriented. NAD
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
RESP: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
ABD: mildly distended, present BS, mild tenderness to palpation 
in LUQ, no guarding, no rebound. no ___ sign or turner's 
sign
GU: No foley
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: No excoriations or rash.

 
Pertinent Results:
ADMISSION:
___ 01:33PM BLOOD WBC-13.9*# RBC-4.78 Hgb-15.8 Hct-39.5* 
MCV-83 MCH-32.9* MCHC-40.1*# RDW-13.7 Plt ___
___ 01:33PM BLOOD Neuts-85.2* Lymphs-10.4* Monos-3.3 
Eos-0.8 Baso-0.2
___ 01:33PM BLOOD Plt ___
___ 03:53PM BLOOD ___ PTT-28.3 ___
___ 01:33PM BLOOD Glucose-188* UreaN-16 Creat-0.7 Na-140 
K-4.4 Cl-106 HCO3-20* AnGap-18
___ 01:33PM BLOOD estGFR-Using this
___ 01:33PM BLOOD ALT-59* AlkPhos-56 TotBili-0.4 
DirBili-0.1 IndBili-0.3
___ 01:33PM BLOOD ___ 01:33PM BLOOD Albumin-4.4 Calcium-9.9 Phos-2.2*# Mg-1.9 
Cholest-547*
___ 01:33PM BLOOD Triglyc-6190* HDL-45 CHOL/HD-12.2
___ 01:33PM BLOOD GreenHd-HOLD
___ 01:33PM BLOOD HoldBLu-HOLD
___ 03:38PM BLOOD ___ pO2-25* pCO2-41 pH-7.42 
calTCO2-28 Base XS-0
___ 03:40PM BLOOD Lactate-1.7

DISCHARGE
___ 07:51AM BLOOD WBC-10.2 RBC-4.30* Hgb-13.7* Hct-38.6* 
MCV-90 MCH-31.9 MCHC-35.5* RDW-13.7 Plt ___
___ 07:51AM BLOOD Plt ___
___ 07:51AM BLOOD
___ 07:51AM BLOOD Glucose-108* UreaN-12 Creat-0.6 Na-138 
K-3.5 Cl-100 HCO3-26 AnGap-16
___ 07:51AM BLOOD ALT-57* AST-49*
___ 07:51AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.9
___ 07:51AM BLOOD Triglyc-___*

RELEVANT IMAGING
___ Imaging CHEST (PA & LAT)
Lung volumes are low.  Retrocardiac opacity with obscuring of 
the lateral border of the thoracic aorta on the frontal view and 
better seen on the lateral view with a spine sign may represent 
round atelectasis, although an acute process such as pneumonia 
cannot be completely excluded.  Linear plate-like band in the 
left lower lung is atelectasis. No pleural effusion.  No 
pneumothorax.  The heart is normal in size.  No pulmonary edema. 
Retrocardiac opacity may reflect round atelectasis, however 
acute pneumonia cannot be excluded and recommend treatment with 
follow-up chest radiograph to ensure resolution.

___ Imaging ABDOMEN US 
IMPRESSION:  Echogenic liver consistent with steatosis. Other 
forms of liver disease including hepatic fibrosis or cirrhosis 
or steatohepatitis cannot be excluded on the basis of this 
examination. Mild splenomegaly.  
The gallbladder is unremarkable.  No cholelithiasis. 

 
Brief Hospital Course:
___ male with history of severe pancreatitis (___), HLD, HTG, 
presented with sudden onset abdominal pain consistent with acute 
pancreatitis.
 
#Pancreatitis:
Patient with a known history of hypertriglyceridemia and on 
admission reported not being compliant with his gemfibrozil and 
low fat diet. He had 4 beers the night before admission. His 
measured TAGs were 6190 and his Lipase was ___ on admission. 
Hypertriglyceridemia and possibly ETOH were the most likely 
triggers of his acute pancreatitis. His course was complicated 
by SIRS, hypocalcemia, hypomagnesemia, mild pleural effusions 
with a BISAP of 2. He responded well to fluid resuscitation, 
bowel rest, anti emetics and Dilaudid. He did not have any 
clinical signs of pancreatic necrosis, superinfection or 
persistent end organ damage. He could tolerate PO by hospital 
day 3 and was was discharged on Oxycodone, gemfibrozil and 
regular low fat diet.  

# Alcohol use: 
Patient had a recent alcohol intake (4 beers the night before 
presentation), but denied excessive use. He also denied a 
history of complicated withdrawal symptoms. He was monitored on 
a CIWA scale and did not show any signs of withdrawal by the 
time of discharge. 

Transitional issues
===================
# Patient instructed to call PCP to set up an appointment this 
week.
# Risk factor control- Patient endorses non-compliance with 
gemfibrozil and has poor high fat diet, advised on the 
importance of good ___ control.
# Concern for genetic etiology for hypertryglyceredemia
# Follow up pending TAG levels
# Monitor for late complications of acute pancreatitis 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ 600 mg PO BID 

 
Discharge Medications:
1. Gemfibrozil 600 mg PO BID 
RX *gemfibrozil 600 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours as 
needed Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute Pancreatitis
 
Secondary: Hypertriglyceredemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___. You came in 
with abdominal pain consistent with acute pancreatitis. Your 
triglycerides were too high and we treated you with insulin and 
they were trending down by the time you were discharged. For the 
pancreatitis, we treated you with pain medications and bowel 
rest and your pain had decreased significantly by time of 
discharge.
Alcohol intake and high fat diet are the main risk factors for 
pancreatitis flares. Maintaining a low fat diet and taking your 
gemfibrozil will help decrease the chance of a recurrence. 
We recommend that you follow up with a lipid specialist and your 
primary care doctor to have better control of your 
triglycerides.
 
PLEASE CALL YOUR PRIMARY CARE DOCTOR TOMORROW TO SCHEDULE AN 
APPOINTMENT THIS WEEK!

We wish you a speedy recovery
Your ___ team 
 
Followup Instructions:
___